US05677454
To a solution of 1.65 g 2-trifluoromethanesulfonyl-4-methylpyridine in 30 mL of dimethylformamide and 30 mL of dioxane was added PdCl2 (PPh3)2 (400 mg), lithium chloride (873 mg) and tetraphenyltin (10.5 g). The reaction mixture was heated at reflux temperature for 3 hr, cooled to room temperature and filtered. The filtrate was diluted with 1N hydrochloric acid, washed with 250 mL ether, then basified with 2N sodium hydroxide and extracted with 2×250 mL of ethyl acetate. The combined extracts were washed with 150 mL water, separated and the ethyl acetate removed by evaporation under reduced pressure to yield 900 mg of 2-phenyl-4-methylpyridine as an oil.

reactant | 2-trifluoromethanesulfonyl-4-methylpyridine | 1.65 g | FC(S(=O)(=O)C1=NC=CC(=C1)C)(F)F | C7H6F3NO2S
reactant | lithium chloride | 873 mg | [Cl-].[Li+]
reactant | tetraphenyltin | 10.5 g | C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-phenyl-4-methylpyridine | 900 mg | C1(=CC=CC=C1)C1=NC=CC(=C1)C | C12H11N
